US06197959B1
In analogy to the procedure described in example 4(a), the (3R,4R)-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was alkylated with 1-bromo-3-hydroxy-propane to yield the (3R,4R)-3-[1-(3-hydroxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a light yellow oil; MS: 637 (M+H)+.

reactant | (3R,4R)-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC(F)(F)F)OCC1=CC=C2CCCNC2=C1 | C31H41F3N2O5
reactant | 1-bromo-3-hydroxy-propane | BrCCCO | C3H7BrO
product | (3R,4R)-3-[1-(3-hydroxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2,2,2-trifluoro-ethoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC(F)(F)F)OCC1=CC=C2CCCN(C2=C1)CCCO | C34H47F3N2O6
